US05496899
Furylacrylic acid (marketed by Aldrich) and excess thionyl chloride, SOCl2, are first reacted together at reflux for several hours in order to obtain furylacrylic acid chloride.

reactant | Furylacrylic acid | O1C(=CC=C1)C(C(=O)O)=C | C7H6O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | furylacrylic acid chloride | O1C(=CC=C1)C(C(=O)Cl)=C | C7H5ClO2
